US08097719B2
The process described as above is used to manufacture proteceted meropenem in crystalline form with desirable yield in about 90-95% and with a purity above 99%. Furthermore, protected meropenem is treated with palladium on charcoal (Pd/C) in a mixture of tetrahydrofuran and carbonate water or phosphate buffer or morpholine buffer of pH-7 so as to retain reaction mass pH 6.5 to 6.9 at temperature of 30-35° C. for 2- 3 hours to achieve a maximum yield. After completion of the reaction, the reaction mass is degasified and charcoalised to form a clear aqueous layer which is further reduced by distillation and finally acetone is added at a maintained temperature of 0-5° C. for 3 hours to get crystalline meropenem trihydrate in pure form.

reactant | meropenem | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O | C17H25N3O5S
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | morpholine | N1CCOCC1 | C4H9NO
catalyst | palladium on charcoal | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | carbonate water | O.C(O)(O)=O
product | meropenem trihydrate | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O.O.O.O | InChI=1S/C17H25N3O5S.3H2O/c1-7-12-11(8(2)21)16(23)20(12)13(17(24)25)14(7)26-9-5-10(18-6-9)15(22)19(3)4;;;/h7-12,18,21H,5-6H2,1-4H3,(H,24,25);3*1H2/t7-,8-,9+,10+,11-,12-;;;/m1.../s1
